US05688947
13.9 g (0.1 mol) 4,6-diamino-5-nitrosopyrimidine was suspended in 50 ml formamide, 6.8 g (0.1 mol) sodium formate, 27.0 g (0.5 mol) 85% formic acid and 0.5 g palladium catalyst were added according to example 1 and the mixture was heated for 4 hours to 110° C. The decolorized suspension was subsequently heated for 3 hours to 180° C. and then cooled. In order to improve the processing, 50 ml water was added and the solid was filtered. The filter cake was dissolved in 160 ml 5% sodium hydroxide solution and the insoluble Pd catalyst was separated. The clear filtrate was adjusted with sulphuric acid to a pH value of 8.5 after a 30 minute treatment at 50° C. with 3 g active carbon. In this process a colorless precipitate separated out from adenine which was suction filtered, washed twice with 30 ml water and dried in a vacuum at 80° C. 12.2 g adenine (0.090 mol, 90% of theory) was obtained in this way as a white powder.

reactant | 4,6-diamino-5-nitrosopyrimidine | 0.1 mol, 13.9 g | NC1=NC=NC(=C1N=O)N | C4H5N5O
reactant | sodium formate | 0.1 mol, 6.8 g | C(=O)[O-].[Na+]
reactant | formic acid | 0.5 mol, 27.0 g | C(=O)O | CH2O2
reactant | water | 50 ml | O | H2O
solvent | formamide | 50 ml | C(=O)N | CH3NO
catalyst | palladium | 0.5 g | [Pd] | Pd
product | adenine | 0.090 mol, 12.2 g, 90% | N1=CN=C2N=CNC2=C1N | C5H5N5
